US08623889B2
Step 2: N-(2-(2-chlorophenyl)-4-oxo-1,4-dihydro-1,7-naphthyridin-6-yl)cyclopropanecarboxamide
A mixture of 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridin-4(1H)-one (29.2 mg, 100 μmol), cyclopropanecarboxamide (17.1 mg, 200 μmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoeth yl)phenyl]palladium(II) (8.0 mg, 10 μmol), 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl (5.4 mg, 10 μmol), and cesium carbonate (98.0 mg, 301 μmol) in 1,4-dioxane (5.0 mL) was heated to reflux for 4 hours. Further portions of cyclopropanecarboxamide (17.1 mg, 200 μmol), chloro[2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl][2-(2-aminoeth yl)phenyl]palladium(II) (8.0 mg, 10 μmol) and 2-(dicyclohexylphosphino)-3,6-dimethoxy-2′-4′-6′-tri-1-propyl-1,1′-biphenyl (5.4 mg, 10 μmol) were added and the mixture heated to reflux for 16 hours. The cooled mixture was treated with water and brine and extracted with ethyl acetate, and the separated organic phase washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by reverse phase HPLC (gradient of acetonitrile in water with 0.1% formic acid) to afford the title compound as a white solid (2.1 mg, 6.2%). LCMS (Method E): RT=3.715 min, M+H+=340.0 & 342.0.

reactant | 6-chloro-2-(2-chlorophenyl)-1,7-naphthyridin-4(1H)-one | 100 μmol, 29.2 mg | ClC=1C=C2C(C=C(NC2=CN1)C1=C(C=CC=C1)Cl)=O | C14H8Cl2N2O
reactant | cyclopropanecarboxamide | 200 μmol, 17.1 mg | C1(CC1)C(=O)N | C4H7NO
reactant | cesium carbonate | 301 μmol, 98.0 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclopropanecarboxamide | 200 μmol, 17.1 mg | C1(CC1)C(=O)N | C4H7NO
reactant | water | O | H2O
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
product | N-(2-(2-chlorophenyl)-4-oxo-1,4-dihydro-1,7-naphthyridin-6-yl)cyclopropanecarboxamide | 2.1 mg, 6.2% | ClC1=C(C=CC=C1)C=1NC2=CN=C(C=C2C(C1)=O)NC(=O)C1CC1 | C18H14ClN3O2
